US08975254B2
N-(2-(5-(3,4-dichlorophenyl)furan-2-yl)ethyl)pyrazolo[1,5-a]pyrimidine-2-carboxamide
The title compound was prepared using the method of Example 20 but starting from pyrazolo[1,5-a]pyrimidinecarboxylic acid (82 mg; 0.5 mmol) and 2-(5-(3,4-dichlorophenyl)furan-2-yl)ethanamine hydrochloride (146 mg; 0.5 mmol). Crude product was purified by chromatography (CombiFlash, silica column, eluent: 0-20% DCM/MeOH) to obtain 107 mg of the title compound. The product was further purified by trituration in toluene to give 55 mg of pure product (27%). 1H-NMR (400 MHz; d1-CDCl3): δ 3.06 (t, 2H), 3.83 (m, 2H), 6.233 (d, 1H), 6.61 (d, 1H), 6.93 (dd, 1H), 7.35-7.41 (m, 2H), 7.44 (dd, 1H), 7.70 (d, 1H), 8.55 (dd, 1H), 8.57-8.60 (m, 1H).

reactant | pyrazolo[1,5-a]pyrimidinecarboxylic acid | 0.5 mmol, 82 mg | N1=C(C=C2N1C=CC=N2)C(=O)O | C7H5N3O2
reactant | 2-(5-(3,4-dichlorophenyl)furan-2-yl)ethanamine hydrochloride | 0.5 mmol, 146 mg | Cl.ClC=1C=C(C=CC1Cl)C1=CC=C(O1)CCN
product | N-(2-(5-(3,4-dichlorophenyl)furan-2-yl)ethyl)pyrazolo[1,5-a]pyrimidine-2-carboxamide | 107 mg | ClC=1C=C(C=CC1Cl)C1=CC=C(O1)CCNC(=O)C1=NN2C(N=CC=C2)=C1 | C19H14Cl2N4O2
